US04107329
In a similar manner, but starting from (±)-methyl 2-hydroxy-2-trifluoromethylpropionate (8.6 g.) and 4-chlorobenzyl chloride (8.05g.), there is obtained (±)-methyl 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-methylpropionate as an oil (8.0g.), b.p. 92°-98° C. (0.1 mm.Hg.).

reactant | (±)-methyl 2-hydroxy-2-trifluoromethylpropionate | 8.6 g | OC(C(=O)OC)(C)C(F)(F)F | C5H7F3O3
reactant | 4-chlorobenzyl chloride | 8.05g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | (±)-methyl 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-methylpropionate | ClC1=CC=C(COC(C(=O)OC)(C(F)(F)F)C)C=C1 | C12H12ClF3O3
